US07989444B2
Preparation 32: 3-Ethyl-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine
Treatment of 3-ethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine (21 mg) with Na2CO3 (1 mL, 1 M in water) in MeOH (2 mL) at reflux for 3 h followed by partitioning between water and dichloromethane and evaporation of the volatiles from the organic phase gave the title compound as a solidifying yellow oil in quantitative yield. The material was used as such without further characterisation.

reactant | 3-ethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine | 21 mg | C(C)C1=NOC2=CC3=C(CCN(CC3)C(C(F)(F)F)=O)C=C21 | C15H15F3N2O2
reactant | Na2CO3 | 1 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 3-Ethyl-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine | quantitative yield | C(C)C1=NOC2=CC3=C(CCNCC3)C=C21 | C13H16N2O
